US05677305
4-Amino-5-nitro-2-(4-oxo-4H-pyridin-1-yl)-benzotrifluoride
First, a mixture containing 2.40 g of 4-amino-2-chloro-5-nitrobenzotrifluoride, 2.0 g of 4-hydroxypyridine, 684 mg of 86% potassium hydroxide, 15 ml of dimethylsulfoxide was heated in an oil bath at 70° C. for 2 hours. The mixture was cooled and ice water was added to the mixture. Precipitated crude crystals were filtered and recrystallized with methanol/ethyl acetate to give 2.69 g of crystals of 4-amino-5-nitro-2-(4-oxo-4H-pyridin-1-yl)-benzotrifluoride.

reactant | 4-amino-2-chloro-5-nitrobenzotrifluoride | 2.40 g | NC1=CC(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl | C7H4ClF3N2O2
reactant | 4-hydroxypyridine | 2.0 g | OC1=CC=NC=C1 | C5H5NO
reactant | potassium hydroxide | 684 mg | [OH-].[K+]
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 4-Amino-5-nitro-2-(4-oxo-4H-pyridin-1-yl)-benzotrifluoride | 2.69 g | NC1=CC(=C(C=C1[N+](=O)[O-])C(F)(F)F)N1C=CC(C=C1)=O | C12H8F3N3O3
